US08067408B2
3-Bromo-4-chlorobenzamide
3-Bromo-4-chlorobenzoic acid (2.35 g, 10 mmol) was suspended in CH2Cl2 (50 mL) and stirred under argon at room temperature. Oxalyl chloride (2.53 g, 20 mmol) was added followed by DMF (10 μL). Gas evolution began, and the mixture was stirred until gas evolution ceased. The solvents were pumped off and toluene was added and stripped off to remove excess oxalyl chloride. The residue was taken up in EtOAc and added to concentrated ammonium hydroxide (10 mL). This was stirred for thirty min. The phases were separated and the organic washed 1× with brine, dried over anhydrous Na2SO4, filtered, and concentrated. The residue was crystallized from EtOAc/hexane to give the title compound as a white crystalline solid. LC-MS m/z 233.7 (M+H)+, 1.54 min (ret time); mp 146-147° C.; analytical HPLC shows 100% purity, (ret time 11.835 min).

reactant | 3-Bromo-4-chlorobenzoic acid | 10 mmol, 2.35 g | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | Oxalyl chloride | 20 mmol, 2.53 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 10 μL | CN(C)C=O | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-4-chlorobenzamide | BrC=1C=C(C(=O)N)C=CC1Cl | C7H5BrClNO
